US04810699
Sodium nitrite (11.7 g, 0.17 mol) in 25 mL water was added dropwise to a cold stirred mixture of 2-(2,2,2-trifluoroethoxy)aniline hydrochloride (33.7 g, 0.15 mol), concentrated HCl (53 mL) and water (25 mL) so that the temperature remained at -5° to -3° C. After the additio was complete, a solution of stannous chloride dihydrate (71.7 g, 0.32 mol) in 122 mL 6N HCl was added over a 1 hour period. After 0.5 hour at 0° C. the reaction was allowed to warm to room temperature. Stirring was continued for 24 hours, the reaction diluted with water, ethyl acetate (400 mL) added, cooled and made alkaline using 50% NaOH. The phases were separated and the organic phase washed with water, dried (MgSO4), filtered and concentrated to give an oil. The oil was dissolved in ether and treated with ethereal HCl. The resulting precipitated solid was collected and dried to give 26.4 g (73%) of 2-(2,2,2-trifluoroethoxy)phenylhydrazine hydrochloride, m.p. 168°-170° C.

reactant | Sodium nitrite | 0.17 mol, 11.7 g | N(=O)[O-].[Na+]
reactant | 2-(2,2,2-trifluoroethoxy)aniline hydrochloride | 0.15 mol, 33.7 g | Cl.FC(COC1=C(N)C=CC=C1)(F)F
reactant | NaOH | [OH-].[Na+]
solvent | water | 25 mL | O | H2O
solvent | HCl | 6N, 122 mL | Cl | ClH
solvent | ethyl acetate | 400 mL | C(C)(=O)OCC | C4H8O2
solvent | ether | CCOCC | C4H10O
solvent | water | 25 mL | O | H2O
solvent | HCl | 53 mL | Cl | ClH
product | 2-(2,2,2-trifluoroethoxy)phenylhydrazine hydrochloride | 26.4 g, 73% | Cl.FC(COC1=C(C=CC=C1)NN)(F)F | InChI=1S/C8H9F3N2O.ClH/c9-8(10,11)5-14-7-4-2-1-3-6(7)13-12;/h1-4,13H,5,12H2;1H
